US09301951B2
Intermediate 42b: N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methylamino)methyl)-benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide
Into a 100-mL round-bottom flask, was placed a solution of methylamine in methanol (126 mg, 1.22 mmol, 4.00 equiv, 30%), potassium carbonate (124 mg, 0.90 mmol, 3.00 equiv), potassium iodide (10 mg, 0.06 mmol, 0.20 equiv), and a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (200 mg, 0.31 mmol, 1.00 equiv) in N,N-dimethylformamide (15 mL). The resulting solution was stirred for 3 h at 70° C. in an oil bath. The resulting solution was diluted with 250 mL of water. The resulting solution was extracted with 4×20 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×50 mL of brine, dried over sodium sulfate, and concentrated under vacuum. This resulted in 200 mg (crude) of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methylamino)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide as a yellow solid.

reactant | methylamine | CN | CH5N
reactant | methanol | 1.22 mmol, 126 mg, 4.00 equiv | CO | CH4O
reactant | potassium carbonate | 0.90 mmol, 124 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.06 mmol, 10 mg, 0.20 equiv | [I-].[K+]
reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.31 mmol, 200 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CBr)=O)=O)C=CC1)(F)F | C33H30BrF3N4O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methylamino)methyl)-benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CNC)=O)=O)C=CC1)(F)F | C34H34F3N5O2
